US07705023B2
(a) 3-Chloro-5-iodo-1-(4-isopropoxyphenyl)-1H-indole-2-carboxylic acid ethyl ester
A mixture of 5-bromo-3-chloro-1-(4-isopropoxyphenyl)-1H-indole-2-carboxylic acid ethyl ester (2.80 g, 6.44 mmol) (prepared in accordance with the procedure described in Example 35, Method 1, step (b)), CuI (122 mg, 0.64 mmol), NaI (1.94 g, 12.9 mmol), N,N′-dimethyl-1,2-diaminoethane (142 μL, 1.28 mmol) and 1,4-dioxane (10 ml) was stirred at 120° C. for 24 h. The mixture was cooled to room temperature and diluted with EtOAc (200 ml). The combined organic phase was washed with diluted NH4OH solution (2×200 mL), HCl (0.1 N solution; 2×200 mL), brine (100 mL) and dried over Na2SO4. Filtration and concentration of the organic phase gave the sub-title compound (3.02 g 97%).

reactant | 5-bromo-3-chloro-1-(4-isopropoxyphenyl)-1H-indole-2-carboxylic acid ethyl ester | 6.44 mmol, 2.80 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1Cl)Br)C1=CC=C(C=C1)OC(C)C | C20H19BrClNO3
reactant | NaI | 12.9 mmol, 1.94 g | [Na+].[I-]
reactant | N,N′-dimethyl-1,2-diaminoethane | 1.28 mmol, 142 μL | CNCCNC | C4H12N2
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.64 mmol, 122 mg | [Cu]I
product | 3-Chloro-5-iodo-1-(4-isopropoxyphenyl)-1H-indole-2-carboxylic acid ethyl ester | 3.02 g, 97% | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1Cl)I)C1=CC=C(C=C1)OC(C)C | C20H19ClINO3
